US08048902B2
Step 5: (4R,5S)-4-Methyl-5-phenyl-3-{2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propionyl}-oxazolidin-2-one
Diastereomer B—Prepared as described in Example 5, Step 2 using (4R,5S)-3-[2-(4-bromo-phenyl)-propionyl]-4-methyl-5-phenyl-oxazolidin-2-one (Diastereomer B) and bis(pinacolato)diboron.

reactant | (4R,5S)-3-[2-(4-bromo-phenyl)-propionyl]-4-methyl-5-phenyl-oxazolidin-2-one | BrC1=CC=C(C=C1)C(C(=O)N1C(O[C@H]([C@H]1C)C1=CC=CC=C1)=O)C | C19H18BrNO3
reactant | bis(pinacolato)diboron | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
product | (4R,5S)-4-Methyl-5-phenyl-3-{2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propionyl}-oxazolidin-2-one | C[C@H]1N(C(O[C@H]1C1=CC=CC=C1)=O)C(C(C)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C25H30BNO5
